US04064266
In a similar manner as described in Example 2 reaction of 3-tert-butyl-5-chloro-4-hydroxybenzaldehyde and malononitrile gave 3-tert-butyl-5-chloro-4-hydroxybenzylidenemalononitrile m.p. 173°.

reactant | 3-tert-butyl-5-chloro-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)Cl | C11H13ClO2
reactant | malononitrile | C(CC#N)#N | C3H2N2
product | 3-tert-butyl-5-chloro-4-hydroxybenzylidenemalononitrile | C(C)(C)(C)C=1C=C(C=C(C#N)C#N)C=C(C1O)Cl | C14H13ClN2O
